US09145415B2
To a solution of ethyl 4-(benzyloxy)-2-(methylthio)pyrimidine-5-carboxylate (S25, 3.02 g) in tetrahydrofuran (50 mL), lithium aluminum hydride (1.51 g) was added portionwise under ice cooling, and the mixture was stirred at the same temperature for 45 minutes. To the reaction mixture, saturated aqueous sodium hydrogencarbonate (300 mL) and ethyl acetate (200 mL) were added. The insoluble matter was removed by filtration through Cerite. The organic layer was separated, washed successively with water and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 70 to 30% hexane in ethyl acetate) to obtain oily (4-(benzyloxy)-2-(methylthio)pyrimidin-5-yl)methanol (S26, 818 mg).

reactant | ethyl 4-(benzyloxy)-2-(methylthio)pyrimidine-5-carboxylate | C(C1=CC=CC=C1)OC1=NC(=NC=C1C(=O)OCC)SC | C15H16N2O3S
reactant | lithium aluminum hydride | 1.51 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydrogencarbonate | 300 mL | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (4-(benzyloxy)-2-(methylthio)pyrimidin-5-yl)methanol | 818 mg | C(C1=CC=CC=C1)OC1=NC(=NC=C1CO)SC | C13H14N2O2S
